US04191808
EXAMPLE 20. (t-Butyloxycarbonyl-glycyl-L-proline-4-phenylazo-1-naphthylamide)
The L-proline 4-phenylazo-1-naphthylamide hydrobromide thus obtained and t-butyloxycarbonyl glycine (1.36 g, 0.0077 mole) were coupled by N, N'dicyclohexylcarbodimide and the reaction mixture was worked up as in Example 6. The crude product was then purified by column chromatography, and the final product was obtained as crystals. Yield 1.1 g.

reactant | L-proline 4-phenylazo-1-naphthylamide hydrobromide | Br.C1(=CC=CC=C1)N=NC1=CC=C(C2=CC=CC=C12)NC([C@H]1NCCC1)=O
reactant | t-butyloxycarbonyl glycine | 0.0077 mole, 1.36 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | N, N'dicyclohexylcarbodimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | t-Butyloxycarbonyl-glycyl-L-proline-4-phenylazo-1-naphthylamide | C1(=CC=CC=C1)N=NC1=CC=C(C2=CC=CC=C12)NC([C@H]1N(CCC1)C(CNC(=O)OC(C)(C)C)=O)=O | C28H31N5O4
